US05496817
To a solution of 2-(4-acetoxy-3-tert.-butylbenzylidene)-3,4-dihydro-3-oxo-2H-1,4-benzothiazine (Reference compound No. 1-2, 0.31 g) in the mixture of tetrahydrofuran (12 ml) and methanol (3 ml), lithium hydroxide (0.18 g) dissolved in water (8 ml) was added dropwise under ice cooling. After the addition, the mixture was stirred for additional 10 minutes. The reaction mixture was poured into 1N hydrochloric acid and the whole was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to give 0.25 g (91%) of 2-(3-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-2H-1,4-benzothiazine as crystals.

reactant | 2-(4-acetoxy-3-tert.-butylbenzylidene)-3,4-dihydro-3-oxo-2H-1,4-benzothiazine | C(C)(=O)OC1=C(C=C(C=C2SC3=C(NC2=O)C=CC=C3)C=C1)C(C)(C)C | C21H21NO3S
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.18 g | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 8 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | 2-(3-tert.-butyl-4-hydroxybenzylidene)-3,4-dihydro-3-oxo-2H-1,4-benzothiazine | 0.25 g, 91% | C(C)(C)(C)C=1C=C(C=C2SC3=C(NC2=O)C=CC=C3)C=CC1O | C19H19NO2S
